US04340598
In 50 ml of ethanol was dissolved 3.5 g of 1-benzyl-4-chloro-2-(4-dimethylaminophenyl)-5-cyanomethylimidazole, and 10 ml of 1 N-sodium hydroxide was added to the solution, followed by stirring at 60° C. for 2 hours. The solution was allowed to cool, and the resulted crystals were recrystallized from 70 ml of 90% ethanol, thereby yielding 2.2 g of 1-benzyl-4-chloro-2-(4-dimethylaminophenyl)imidazole-5-acetamide as colorless needles, m.p. 215°-216° C.

reactant | 1-benzyl-4-chloro-2-(4-dimethylaminophenyl)-5-cyanomethylimidazole | 3.5 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC#N)Cl)C1=CC=C(C=C1)N(C)C | C20H19ClN4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-benzyl-4-chloro-2-(4-dimethylaminophenyl)imidazole-5-acetamide | 2.2 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC(=O)N)Cl)C1=CC=C(C=C1)N(C)C | C20H21ClN4O
